US04762942
2-Ethyl-1[2-(phenylmethoxy)-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzen
To a suspension of 2.016 g of prewashed sodium hydride in 125 ml of dimethylformamide was added dropwise a solution of 17.75 g of 1-(2-ethyl-4-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol in 125 ml of dimethylformamide. This mixture was stirred 15 minutes, then 7.198 g of benzyl bromide was added and stirring was continued for an additional 3 hours. The reaction mixture was quenched slowly with water and then extracted several times with ether. The ether extracts were combined, washed with water, dried and the solvent evaporated, giving 19.9 g of the desired compound.

reactant | sodium hydride | 2.016 g | [H-].[Na+]
reactant | 1-(2-ethyl-4-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol | 17.75 g | C(C)C1=C(OCC(COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)C=CC(=C1)CCCCCCCCCCCCCC | C44H58O3
reactant | benzyl bromide | 7.198 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 2-Ethyl-1[2-(phenylmethoxy)-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzen | 19.9 g | C(C)C1=C(C=CC(=C1)CCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC1=CC=CC=C1 | C51H64O3
